US07345056B2
To a solution of 9-(5-chloro-thiophene-2-sulfonyl)-2-hydroxymethylene-9-aza-bicyclo[3.3.1]nonan-3-one crude mixture in glacial acetic acid (3 mL) followed by hydrazine monohydrate (1 mL). The reaction mixture was stirred at 100° C. for 1 h after which the solution was cooled to room temperature and quenched by the addition of saturated NaHCO3 solution (until pH>7). The resulting solution was extracted with EtOAc (3×20 mL), the organic extracts were combined, dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography (Elution with 50% EtOAc/hex, 80% EtOAc/hex, 100% EtOAc, and 5% MeOH/EtOAc) and preparative HPLC to give 12-(5-chloro-thiophene-2-sulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene as a white solid. Retention time (min)=1.649 min, Method 1, MS (ESI) 344.0 (M+H); 1H-NMR (300 MHz, CDCl3) δ 7.47 (s, 1H), 7.25 (s, 1H), 7.22 (d, =4.4 Hz, 1H), 5.28 (b s, 1H), 4.56 (t, J=6.04 Hz, 1H), 3.11 (dd, J=17.58, 7.69 Hz, 1H), 2.66 (d, J=17.58 Hz, 1H), 2.09-1.92 (m, 2H), 1.74-1.57 (m, 3H), 1.44-1.29 (m, 1H); 13C-NMR (75 MHz, CDCl3) δ 143.4, 139.2, 137.7, 131.8, 127.4, 127.0, 117.0, 48.0, 47.9, 32.3, 31.7, 25.4, 15.3 ppm.

reactant | 9-(5-chloro-thiophene-2-sulfonyl)-2-hydroxymethylene-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(S1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C13H14ClNO4S2
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 12-(5-chloro-thiophene-2-sulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(S1)S(=O)(=O)N1C2C=3C=NNC3CC1CCC2 | C13H14ClN3O2S2
